US09169248B2
To 2-[2-methyl-4-(trifluoromethyl)-5-vinylimidazol-1-yl]pent-4-enoic acid (120 mg, 0.42 mmol) was added DMF (3 mL), Et3N (500 μL, excess), 1-(4-chlorophenyl)-5-isopropylpyrazol-4-amine (100 mg, 0.42 mmol), and HATU (250 mg, excess) and the resulting mixture was stirred at room temperature for 1 h. Water (20 mL) was added and the mixture was extracted with EtOAc (2×50 mL). The combined organics were then dried (MgSO4), concentrated in vacuo, and purified by flash chromatography (SiO2, 80% EtOAc/hexanes) to obtain N-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)-5-vinylimidazol-1-yl]pent-4-enamide (147 mg, 0.3 mmol, 70% yield).

reactant | 2-[2-methyl-4-(trifluoromethyl)-5-vinylimidazol-1-yl]pent-4-enoic acid | 0.42 mmol, 120 mg | CC=1N(C(=C(N1)C(F)(F)F)C=C)C(C(=O)O)CC=C | C12H13F3N2O2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | 1-(4-chlorophenyl)-5-isopropylpyrazol-4-amine | 0.42 mmol, 100 mg | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14ClN3
reactant | HATU | 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | Water | 20 mL | O | H2O
solvent | Et3N | 500 μL | CCN(CC)CC | C6H15N
product | N-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)-5-vinylimidazol-1-yl]pent-4-enamide | 0.3 mmol, 147 mg, 70% yield | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)NC(C(CC=C)N1C(=NC(=C1C=C)C(F)(F)F)C)=O | C24H25ClF3N5O
